US05804532
Sodium acetate (1.93 g) was added to a mixture of 1-[4-chloro-2-(methylsulphonyl)phenyl]-3-cyclopropyl-2-ethoxymethylenepropan-1,3-dione (8.4 g) and hydroxylamine hydrochloride (1.64 g) in ethanol with stirring. The mixture was stirred at room temperature overnight. It was evaporated and the residue was dissolved in ethyl acetate, washed with water, dried (anhydrous magnesium sulphate) and filtered. The filtrate was evaporated to dryness and the residue was recrystallized from ether to give 4-[4-chloro-2-(methylsulphonyl)benzoyl]-5-cyclopropylisoxazole (4.4 g) as an off-white solid, m.p. 183°-185° C.

reactant | Sodium acetate | 1.93 g | C(C)(=O)[O-].[Na+]
reactant | 1-[4-chloro-2-(methylsulphonyl)phenyl]-3-cyclopropyl-2-ethoxymethylenepropan-1,3-dione | 8.4 g | ClC1=CC(=C(C=C1)C(C(C(=O)C1CC1)=COCC)=O)S(=O)(=O)C | C16H17ClO5S
reactant | hydroxylamine hydrochloride | 1.64 g | Cl.NO
solvent | ethanol | C(C)O | C2H6O
product | 4-[4-chloro-2-(methylsulphonyl)benzoyl]-5-cyclopropylisoxazole | 4.4 g | ClC1=CC(=C(C(=O)C=2C=NOC2C2CC2)C=C1)S(=O)(=O)C | C14H12ClNO4S
